US04912231
A. (cis)-1-Benzoyl-4-fluoro-L-proline methyl ester
A solution of (trans)-1-benzoyl-4-hydroxy-L-proline methyl ester prepared as described in Example 1 Part A(2) (6 g, 24.1 mmole) was dissolved in dichloromethane and cooled to -45° C. under an argon atmosphere. To the above solution diethylaminosulfur trifluoride (5.2 ml, 42 mmole) was added dropwise. The resulting solution was stirred and warmed to -35° C. To the above solution pyridine was added dropwise (9 ml, 116 mmole). The reaction was allowed to stir overnight while warming to room temperature. The solvent was removed in vacuo and the oily residue treated with ethyl acetate and 1N HCl. The mixture was transferred to a separatory funnel, the aqueous layer removed, and the organic layer washed with additional 1N HCl, then water and saturated sodium bicarbonate solution. The organic solution was dried over sodium sulfate, filtered and concentrated to a yellow oil. The crude product was chromatographed on silica gel using 1:1 ethyl acetate:hexane as eluent. Combination and concentration of product containing fractions produced 3.9 gm (64%) of title compound as an oil.

reactant | (trans)-1-benzoyl-4-hydroxy-L-proline methyl ester | COC([C@H]1N(C[C@@H](C1)O)C(C1=CC=CC=C1)=O)=O | C13H15NO4
reactant | diethylaminosulfur trifluoride | 42 mmole, 5.2 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (cis)-1-Benzoyl-4-fluoro-L-proline methyl ester | 3.9 gm, 64% | COC([C@H]1N(C[C@H](C1)F)C(C1=CC=CC=C1)=O)=O | C13H14FNO3
